US07112594B2
3-Cyano-6-isopropyl-2-mercaptopyridine (50 g) synthesized according to U.S. Pat. No. 5,001,137 (Mar. 19, 1991), sodium ethoxide (22.9 g) and bromoethyl acetate (34.2 ml) were added to ethanol (500 ml) and the mixture was stirred at room temperature for 1 hr and the solvent was evaporated. The residue was recrystallized from ethanol to give ethyl 3-amino-6-isopropylthieno[2,3-b]pyridine-2-carboxylate (69.3 g) (melting point: 161-162° C.). (2) This ester (30 g) and isoamyl nitrite (45.7 ml) were added to tetrahydrofuran (300 ml) and the mixture was stirred at 60° C. for 2 hr and the solvent was evaporated under reduced pressure. The residue was separated and purified by silica gel column chromatography (mobile phase; chloroform) to give ethyl 6-isopropylthieno[2,3-b]pyridine-2-carboxylate (7.1 g). melting point: 73-74° C. (3) This was subjected to hydrolysis under basic conditions according to a conventional method to give the title compound (5.8 g). melting point: 218-220° C.

reactant | 3-Cyano-6-isopropyl-2-mercaptopyridine | 50 g | C(#N)C=1C(=NC(=CC1)C(C)C)S | C9H10N2S
reactant | sodium ethoxide | 22.9 g | [O-]CC.[Na+]
reactant | bromoethyl acetate | 34.2 ml | C(C)(=O)OCCBr | C4H7BrO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3-amino-6-isopropylthieno[2,3-b]pyridine-2-carboxylate | 69.3 g | NC1=C(SC2=NC(=CC=C21)C(C)C)C(=O)OCC | C13H16N2O2S
